US07781591B2
To a stirred solution of 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-(5-formyl-1-benzofuran-2-yl)nicotinonitrile (200 mg, 0.47 mmol) in THF (5 mL) and EtOH (2 mL) was added tert-butyl 1-piperazinecarboxylate (262 mg, 1.41 mmol) and acetic acid (54 mg, 0.9 mmol) and the reaction mixture was stirred at room temperature for 1 h. Sodium triacetoxyborohydride (398 mg, 1.88 mmol) was added to the reaction mixture and the resulting solution was stirred at room temperature overnight. After the reaction was concentrated, ethyl acetate was added; and the organic phase was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated. The residue was purified by flash column chromatography (ethyl acetate/hexane) to give tert-butyl 4-[(2-{4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-cyanopyridin-3-yl}-1-benzofuran-5-yl)methyl]piperazine-1-carboxylate as a yellow solid (203 mg, 73%). HPLC retention time: 9.5 min.(g); MS: 597.4 (M+H); and HRMS: 597.2378.

reactant | 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-(5-formyl-1-benzofuran-2-yl)nicotinonitrile | 0.47 mmol, 200 mg | ClC=1C=C(C(=C2C=CNC12)C)NC1=C(C=NC=C1C#N)C=1OC2=C(C1)C=C(C=C2)C=O | C24H15ClN4O2
reactant | tert-butyl 1-piperazinecarboxylate | 1.41 mmol, 262 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | acetic acid | 0.9 mmol, 54 mg | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 1.88 mmol, 398 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOH | 2 mL | CCO | C2H6O
product | tert-butyl 4-[(2-{4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-cyanopyridin-3-yl}-1-benzofuran-5-yl)methyl]piperazine-1-carboxylate | 203 mg, 73% | ClC=1C=C(C(=C2C=CNC12)C)NC1=C(C=NC=C1C#N)C=1OC2=C(C1)C=C(C=C2)CN2CCN(CC2)C(=O)OC(C)(C)C | C33H33ClN6O3
